US05719139
To a solution of 4-methoxybenzyl (7R,8S)-5-acetoxy-8-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-9-oxo-1-azabicyclo[5.2.0]non-2,4-diene-2-carboxylate (88 mg, 0.17 mM) in methanol (6 ml) was added hydrochloric acid (10 drops, 2N). After 6 hours the solvent was evaporated and the product purified by chromatography on silica (10 ml), eluting with ethyl acetate/dichloromethane, (1:1) to give 4-methoxybenzyl (7R,8S)-5-acetoxy-8-[(1R)-1-hydroxyethyl]-9-oxo-1-azabicyclo[5.2.0]non-2,4-diene-2-carboxylate (29 mg, 39%).

reactant | 4-methoxybenzyl (7R,8S)-5-acetoxy-8-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-9-oxo-1-azabicyclo[5.2.0]non-2,4-diene-2-carboxylate | 0.17 mM, 88 mg | C(C)(=O)OC1=CC=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)OC | C27H37NO7Si
solvent | methanol | 6 ml | CO | CH4O
catalyst | hydrochloric acid | 2N, 10 drops | Cl | ClH
product | 4-methoxybenzyl (7R,8S)-5-acetoxy-8-[(1R)-1-hydroxyethyl]-9-oxo-1-azabicyclo[5.2.0]non-2,4-diene-2-carboxylate | 29 mg, 39% | C(C)(=O)OC1=CC=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)OC | C21H23NO7
